US08389509B2
A solution of 2-hydrazinopyridine (5 g, 45.8 mmol) in THF (200 mL) under nitrogen was cooled in a dry ice/isopropanol bath to −34° C. A solution of (Z)-ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate (11 g, 45.8 mmol) in THF (73 mL) was added in a slow stream over 25 minutes, with nitrogen flush. During the addition, the internal reaction temperature averaged −34° C., and never exceeded −31° C. After completion of the addition, stirring at −33.5° C. was continued for ˜40 min. Additional (Z)-ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate (0.89 mL, 0.10 eq) was added and stirring at −30° C. was continued for 11 min. EtOAc (270 mL) was added along with sat. aq. NaHCO3 solution (250 mL) and brine (20 mL). The layers were separated and the organic layer was washed with sat. aq. NaHCO3 solution, brine, then dried (Na2SO4) and concentrated under vacuum to yield an orange viscous oil. Flash chromatography on silica gel yielded ethyl 1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate (10.62 g) as a yellow solid. The compound had an HPLC retention time=2.5 min.−Column: YMC COMBISCREEN® ODS-A 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=286.1.

reactant | 2-hydrazinopyridine | 45.8 mmol, 5 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | (Z)-ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate | 45.8 mmol, 11 g | C(C)O\C=C(/C(=O)OCC)\C(C(F)(F)F)=O | C9H11F3O4
reactant | (Z)-ethyl 2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate | 0.89 mL, 0.10 eq | C(C)O\C=C(/C(=O)OCC)\C(C(F)(F)F)=O | C9H11F3O4
reactant | EtOAc | 270 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | 250 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 73 mL | C1CCOC1 | C4H8O
solvent | brine | 20 mL | [Cl-].[Na+].O
product | ethyl 1-(pyridin-2-yl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 10.62 g | N1=C(C=CC=C1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C12H10F3N3O2
